US08476261B2
53G) Preparation of 2-(1-aminocyclobutyl)-N-(tert-butoxycarbonyl)ethylamine
To a solution of 2-[1-(benzylamino)cyclobutyl]-N-(tert-butoxycarbonyl)ethylamine (117 mg, 0.384 mmol) in EtOH (5 mL) was added 10% Pd—C (35 mg) and the mixture was stirred under H2 gas 5 kgf/cm2 at room temperature for 5 h. The mixture was filtered, and the filtrate was concentrated in vacuo. The distillation of the residue gave the title compound as a colorless solid (76.0 mg, 92%). 1H-NMR (400 MHz, DMSO-d6) δ 1.37 (9H, s), 1.49-1.58 (2H, m), 1.62-1.77 (4H, m), 1.82-1.91 (2H, m), 2.92-3.01 (2H, m), 6.78 (1H, t, J=5.5 Hz).

reactant | 2-[1-(benzylamino)cyclobutyl]-N-(tert-butoxycarbonyl)ethylamine | 0.384 mmol, 117 mg | C(C1=CC=CC=C1)NC1(CCC1)C(CN)C(=O)OC(C)(C)C | C18H28N2O2
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | Pd—C | 35 mg | [Pd] | Pd
product | 2-(1-aminocyclobutyl)-N-(tert-butoxycarbonyl)ethylamine | 76.0 mg, 92% | NC1(CCC1)C(CN)C(=O)OC(C)(C)C | C11H22N2O2
